US07919519B2
5-Benzyl-6-chloropyridin-3-ol
Starting material (5-bromo-6-chloropyridin-3-ol) is available from a published 3-step procedure: Synthesis, 1990, 499-501. To an oven-dried flask was added zinc (2.45 g, 37.4 mmol) and a crystal of iodine. The mixture was heated with a heat gun for 10 min under vacuum and then allowed to cool under Ar atmosphere. After charging the flask with degassed DMF (10 mL), the mixture was cooled to 0° C., and benzyl bromide (2.96 mL, 24.9 mmol) was added. After stirring the resulting mixture at 0° C. for 30 min, a mixture of Pd2(dba)3 (0.571 g, 0.624 mmol), S-Phos (1.02 g, 2.49 mmol) and 5-bromo-6-chloropyridin-3-ol (2.60 g, 12.5 mmol) was added to the flask quickly, and then the reaction was flushed with Ar and placed in an oil bath at 60° C. for 4 h or until starting material was gone by LCMS. The reaction was cooled to rt and filtered through a fine fritted funnel. The filtrate was concentrated to afford a yellow oil that was adsorbed onto silica and purified by flash chromatography (25% EtOAc/Hex, ramped to 100% EtOAc). The product was further purified after the column by recrystallization from hexane and minimal cold chloroform to afford a white solid. MS (ESI) m/z: Calculated: 219.1; Observed: 220.0 (M++1).

reactant | 5-bromo-6-chloropyridin-3-ol | BrC=1C=C(C=NC1Cl)O | C5H3BrClNO
reactant | iodine | II | I2
reactant | benzyl bromide | 24.9 mmol, 2.96 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | S-Phos | 2.49 mmol, 1.02 g | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | 5-bromo-6-chloropyridin-3-ol | 12.5 mmol, 2.60 g | BrC=1C=C(C=NC1Cl)O | C5H3BrClNO
catalyst | zinc | 37.4 mmol, 2.45 g | [Zn] | Zn
catalyst | Pd2(dba)3 | 0.624 mmol, 0.571 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-Benzyl-6-chloropyridin-3-ol | C(C1=CC=CC=C1)C=1C=C(C=NC1Cl)O | C12H10ClNO
